US09334286B2
Preparation 106: 4-(1,3-Dioxoisoindolin-2-yl)-3-hydroxy-N,N-dimethylbenzenesulfonamide
A suspension of 4-amino-3-hydroxy-N,N-dimethylbenzenesulfonamide (120 mg, 0.555 mmol) and phthalic anhydride (82 mg, 0.555 mmol) in AcOH (3 mL) was stirred at 120° C. under microwave irradiation for 60 minutes. The reaction was cooled and diluted with water to afford a suspension. The precipitate was filtered, washed with water and dried under high vacuum to afford the title compound as a pink solid (142 mg, 74%).

reactant | 4-amino-3-hydroxy-N,N-dimethylbenzenesulfonamide | 0.555 mmol, 120 mg | NC1=C(C=C(C=C1)S(=O)(=O)N(C)C)O | C8H12N2O3S
reactant | phthalic anhydride | 0.555 mmol, 82 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | AcOH | 3 mL | CC(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-(1,3-Dioxoisoindolin-2-yl)-3-hydroxy-N,N-dimethylbenzenesulfonamide | 142 mg, 74% | O=C1N(C(C2=CC=CC=C12)=O)C1=C(C=C(C=C1)S(=O)(=O)N(C)C)O | C16H14N2O5S
